US05011825
(b) Z-D-Arg-Ile-OH
41.8 ml of aqueous 1N NaOH are added to a solution of 19 g of Z-D-Arg-Ile-OBzl in a mixture of 70 ml of dioxane, 30 ml of water and 12 ml of methanol, and the mixture is left to stand at room temperature overnight. The next day it is neutralized with about 3.3 ml of 4N HCl. The cloudy solution is filtered with suction through a clarifying layer, and the filtrate is concentrated. The residue is partitioned between 120 ml of n-pentanol and 120 ml of water. The aqueous phase is extracted a further 4 times by shaking with n-pentanol. The n-pentanol phases are concentrated together. The residue is triturated with ethyl acetate, and the precipitate is filtered off with suction.

reactant | NaOH | 1N | [OH-].[Na+]
reactant | Z-D-Arg-Ile-OBzl | 19 g | N([C@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H37N5O5
reactant | water | 30 ml | O | H2O
reactant | HCl | 4N, about 3.3 ml | Cl | ClH
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 12 ml | CO | CH4O
product | Z-D-Arg-Ile-OH | N([C@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O)C(=O)OCC1=CC=CC=C1 | C20H31N5O5
